US04642310
Ethyl 2-methyl-5-oxo-4-(2-trifluoromethylphenyl)-1,4,5,7-tetrahydrothieno[3,4-b]pyridine-3-carboxylate
10 mmol of diethyl 2 -acetylthiomethyl-6-methyl-4-(2-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylate, dissolved in 40 ml of ethanol, are boiled with 6 ml of saturated ethanolic HCl for 2 hours and the product is precipitated with water and then recrystallized from ethanol.

reactant | diethyl 2 -acetylthiomethyl-6-methyl-4-(2-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 10 mmol | C(C)(=O)SCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)C(F)(F)F)C(=O)OCC)C | C22H24F3NO5S
reactant | HCl | 6 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | Ethyl 2-methyl-5-oxo-4-(2-trifluoromethylphenyl)-1,4,5,7-tetrahydrothieno[3,4-b]pyridine-3-carboxylate | CC1=C(C(C2=C(N1)CSC2=O)C2=C(C=CC=C2)C(F)(F)F)C(=O)OCC | C18H16F3NO3S
